2147-11-25 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2147-11-24**] 04:35 PM
 INVASIVE VENTILATION - START [**2147-11-24**] 04:45 PM
 ARTERIAL LINE - START [**2147-11-24**] 11:34 PM
   -aline placed
   -fi02 decreased to 70% then changed to PS [**4-30**]/.40, ABG at 3am
   7.34/34/120; changed to 5/8/40%
   -needs ICY consent in the am
   -ID consult in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-11-25**] 12:46 AM
   Bactrim (SMX/TMP) - [**2147-11-25**] 12:54 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-25**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-25**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.2
   HR: 52 (5 - 96) bpm
   BP: 100/54(70) {97/52(67) - 189/100(137)} mmHg
   RR: 13 (13 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 8 (6 - 11)mmHg
   Total In:
                                                                  8,802 mL
                                                                    904 mL
   PO:
   TF:
   IVF:
                                                                  1,302 mL
                                                                    904 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    820 mL
   Urine:
                                                                  1,060 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,742 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 721 (488 - 721) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   Compliance: 56.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/34/120/16/-6
   Ve: 8.4 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   8.3 g/dL
   285
   0.6 mg/dL
   16 mEq/L
   4.1 mEq/L
   15 mg/dL
   109 mEq/L
   133 mEq/L
   26.4 %
   1.8 K/uL
        [image002.jpg]
                             [**2147-11-24**]  06:23 PM
                             [**2147-11-24**]  09:15 PM
                             [**2147-11-25**]  12:00 AM
                             [**2147-11-25**]  02:50 AM
                             [**2147-11-25**]  03:05 AM
                             [**2147-11-25**]  06:00 AM
   WBC
   2.7
   1.8
   Hct
   21.0
   26.4
   Plt
   257
   298
   Cr
   0.7
   0.6
   TCO2
   17
   19
   Glucose
   126
   269
   238
   285
   Other labs: PT / PTT / INR:12.7/28.3/1.1, ALT / AST:98/138, Alk Phos /
   T Bili:84/0.5, Differential-Neuts:75.9 %, Lymph:21.7 %, Mono:1.5 %,
   Eos:0.4 %, Albumin:2.2 g/dL, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Microbiology: blood ctx [**11-24**] pending
   Viral ctx from [**11-24**] pending
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 76**])
 .H/O PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) **] [**Name11 (NameIs) **]
   PNEUMONIA)
   41 yo M with newly diagnosed HIV/AIDS ([**2147-10-31**]) and s/p prolonged
   hospitalization (ending [**2147-11-16**]) for PCP pneumonia, presents to
   hospital today with dyspnea. was found to be hypoxic in ED and was
   susequently intubated.
   #. Hypoxemic respiratory failure: Most likely an infectious cause of
   hypoxemic respiratory failure given fever, elevated WBC count from
   baseline, and patchy opacities on CXR. Given recent hospitalization and
   treatment for PCP pneumonia, is reasonable to continue treatment with
   Bactrim. Additionally, with large A-a gradient, should administer
   steroids in setting of suspected progressive PCP [**Name Initial (PRE) 931**].
   Community-acquired pneumonia is a possibility as is a hospital-acquired
   pneumonia. Given high fever, influenza will be considered and patient
   sould be ruled-out. Unlikely to be an MI given lack of history, EKG
   changes, or cardiac enzyme elevation at presentation. No need to
   continue to trend cardiac enzymes.
   - continue PS ventilation as patient comfortable and repeat ABG on
   current settings.  Consider waiting until tomorrow to wean.
   - Obtain suctoin sputum sample and consider need for BAL for better
   airway sampling
   - Empirically treat community acquired pneumonia with levofloxacin
   - Empirically treat hospital acquired pneumonia with vancomycin and
   cefepime
   - Treat known PCP pneumonia with Bactrim IV and steroids
   - f/u nasopharyngeal swab and empirically treat influenza with
   oseltamivir
   - ID consult given complicated respiratory failure and AIDS status
   - add on LDH
   #. Hypotension:  Patient not hypotensive at presentation, though
   developed a minimal vasopressor requirement prior to being transferred
   out of the ED. No known cardiac history. Possible component of
   hypovolemic shock, though must likely to be septic shock in setting of
   fever, CXR appearance, hypoxic respiratory failure. Received 9 L of IVF
   in the ED.
   - Continue norepinephrine titrated to MAPs greater than 65
   - Continue boluses targeted at liberation from norepinephrine
   - Follow-up blood cultures
   #. Fevers:
   Given appearance of CXR and concurrent hypoxia, no reason to think that
   there is alternate cause of fevers at this time; however, should likely
   obtain urine sample to rule out UTI.
   - f/u Urinalysis with culture
   #. HIV/AIDS:
   Last measured CD4 was 26 on [**2147-11-4**] at time of diagnosis.
   - Hold Emtricitabine-Tenofovir, Ritonavir as cannot get all HIV
   medications
   - Hold darunavir as it cannot be crushed
   - ID consult as above
   #  Non anion gap metabolic acidosis: likely due to IVF in ED
   - continue to monitor daily
   ICU Care
   Nutrition: NPO for now, pending bronchoscopy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-11-24**] 04:35 PM
   18 Gauge - [**2147-11-24**] 04:36 PM
   16 Gauge - [**2147-11-24**] 04:36 PM
   Arterial Line - [**2147-11-24**] 11:34 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  PPI (per ID only Rantaz or Atazanavir needs acidic pH
   for absorption)
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full presumed, ICU consent needed today
   Disposition: ICU LOC

2147-11-26 06:56:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: Respiratory Failure
   24 Hour Events:
   - Tamiflu dc'ed due to negative flu swab, but then ID said viral panel
   flu swab not as good as influenze only swab so reordered
   - Bronch done, increased pressure support and FiO2 due to increased
   oxygen requirement, then backed off later
   - ID recs: Continue broad abx coverage as you are, agree with BAL
   studies for gs, cx, would send flu NP swab in addition to viral panel
   given likely increased sensitivity, check CMV VL, serum crypto Ag, and
   urine legionella Ag, note that he is toxo IgG positive and would
   ultimately need toxo secondary prophylaxis after acute illness, would
   start azithromycin 1200 mg po qweek as MAC ppx given CD4 <50, would
   check RPR and urine for gc/chlamydia; ok to do as outpatient - orders
   done.  Also said don't give HAART right now.
   - ICU consent done
   - Spoke with brother.  [**Name (NI) **] told brother about diagnosis so now okay
   to discuss case with him.
 BRONCHOSCOPY - At [**2147-11-25**] 02:48 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-11-25**] 12:00 PM
   Vancomycin - [**2147-11-25**] 08:28 PM
   Cefipime - [**2147-11-25**] 08:29 PM
   Tamiflu - [**2147-11-26**] 04:00 AM
   Bactrim (SMX/TMP) - [**2147-11-26**] 05:39 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2147-11-25**] 02:48 PM
   Fentanyl - [**2147-11-25**] 02:48 PM
   Heparin Sodium (Prophylaxis) - [**2147-11-26**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-26**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 94 (53 - 94) bpm
   BP: 95/59(72) {84/44(56) - 115/66(83)} mmHg
   RR: 36 (14 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 18 (8 - 18)mmHg
   Total In:
                                                                  2,950 mL
                                                                    620 mL
   PO:
   TF:
   IVF:
                                                                  2,950 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    320 mL
   Urine:
                                                                  2,050 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    900 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 380 (380 - 721) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.45/30/114/20/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   GEN: Intubated, but awake and responsive.  Answering questions
   appropriately and writing on paper to communicate
   HEENT: PERRL, scleral edema, intubated with OGT in place, dried blood
   at nare on left
   NECK: no [**Doctor First Name **]
   PULM: Coarse breath sounds throughout, otherwise clear to ausc
   bilaterally
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   SKIN: no appreciable rashes
   Labs / Radiology
   283 K/uL
   7.6 g/dL
   131 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   17 mg/dL
   107 mEq/L
   134 mEq/L
   22.7 %
   6.3 K/uL
        [image002.jpg]
                             [**2147-11-25**]  02:50 AM
                             [**2147-11-25**]  03:05 AM
                             [**2147-11-25**]  06:00 AM
                             [**2147-11-25**]  10:42 AM
                             [**2147-11-25**]  12:00 PM
                             [**2147-11-25**]  06:00 PM
                             [**2147-11-25**]  11:53 PM
                             [**2147-11-26**]  01:00 AM
                             [**2147-11-26**]  04:10 AM
                             [**2147-11-26**]  04:54 AM
   WBC
   1.8
   6.3
   Hct
   26.4
   22.7
   Plt
   298
   283
   Cr
   0.6
   0.7
   TCO2
   19
   19
   19
   21
   Glucose
   238
   285
   180
   155
   200
   131
   Other labs: PT / PTT / INR:12.7/28.3/1.1, ALT / AST:69/30, Alk Phos / T
   Bili:67/0.2, Differential-Neuts:89.6 %, Lymph:8.1 %, Mono:2.0 %,
   Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:292 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   LDH 292 (from 379 yesterday)
   CMV Viral load pending
   Crypto antigen pending
[**2147-11-25**] 2:30 pm Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2147-11-25**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
[**2147-11-25**] 2:30 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2147-11-25**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   LEGIONELLA CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii)
      (Preliminary):
   ACID FAST SMEAR (Preliminary):
   ACID FAST CULTURE (Preliminary):
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   [**2147-11-24**] Blood cultures pending
   Chest Xray from today in OMR
   Assessment and Plan
   41 yo M with newly diagnosed HIV/AIDS ([**2147-10-31**]) and s/p prolonged
   hospitalization (ending [**2147-11-16**]) for PCP pneumonia, who presented
   with dyspnea. was found to be hypoxic in ED and was subsequently
   intubated.
   #. Hypoxemic respiratory failure: Felt to most likely be worsening of
   his PCP pneumonia, although also may have hospital-acquired pneumonia.
   Could also consider influenza
   - SBT this am with likely extubation today
   - FU BAL results
   - Continue empiric tx of community acquired pneumonia with levofloxacin
   and empiric tx of hospital acquired pneumonia with vancomycin and
   cefepime until BAL culture results  negative x 48 hours
   - Treat known PCP pneumonia with Bactrim IV and steroids (will readjust
   steroid dose to 40mg po bid x 5 days total (3 more days), then 40mg po
   daily x 5 days, then 20mg daily x 11 days).
    - f/u repeat nasopharyngeal swab and empirically treat influenza with
   oseltamivir
   - FU CMV VL and crypto antigen, urine legionella
   - can trend LDH
   - appreciate ID recs
- started azithromycin 1200mg po qweek as MAC prophylaxis given CD4<50
   #. Hypotension:  Patient not hypotensive at presentation, though
   developed a minimal vasopressor requirement prior to being transferred
   out of the ED. No known cardiac history. Possible component of
   hypovolemic shock, though must likely to be septic shock in setting of
   fever, CXR appearance, hypoxic respiratory failure. Received 9 L of IVF
   in the ED and blood pressures have been stable.
   - Goal MAP 60 but will hold off on fluids at this time as going to
   extubate
   - Check CVP to assess volume
   - Continue fluid boluses as needed
   - Follow-up blood cultures
   #. HIV/AIDS: Last measured CD4 was 26 on [**2147-11-4**] at time of
   diagnosis.
   - Will hold off on HAART at this time per ID
   - Appreciate ID recs
   - Could consider IRS as possible contributor to current presentation
   #  Non anion gap metabolic acidosis: Likely due to IVF in ED, bicarb
   improving today but still low
   - Continue to monitor daily
   # Anemia: Dropped Hct in last 24 hours.
   - Consider blood transfusion if feel that he needs volume resuscitation
   - Maintain active type and screen
   ICU Care
   Nutrition: NPO pending extubation
   Glycemic Control:
   Lines: Multi Lumen - [**2147-11-24**] 04:35 PM
   18 Gauge - [**2147-11-24**] 04:36 PM
   16 Gauge - [**2147-11-24**] 04:36 PM
   Arterial Line - [**2147-11-24**] 11:34 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Brother [**Name (NI) 10371**] ([**Telephone/Fax (1) 10372**]
   Code status: Full code
   Disposition: ICU for now

2147-11-26 09:16:00 Physician Attending Progress Note
Chief Complaint: AIDS, respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41yo M with recently diagnosed HIV/AIDS (CD4 26) and PCP
   Treating for HAP, PCP [**Name Initial (PRE) **]. vanc/cefepime/levofloxacin/tamiflu/bactrim,
   solumedrol
   24 Hour Events:
 BRONCHOSCOPY yest afternoon.
   ID consult agreed with antibiotic choices and stopping HAART while he
   is here.
   Off pressors.
   PSV overnight.
   PS/PEEP 5/0 FiO2 0.4
   7.45/30/114
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-11-25**] 12:00 PM
   Tamiflu - [**2147-11-26**] 04:00 AM
   Bactrim (SMX/TMP) - [**2147-11-26**] 05:39 AM
   Vancomycin - [**2147-11-26**] 08:30 AM
   Cefipime - [**2147-11-26**] 08:30 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2147-11-25**] 02:48 PM
   Fentanyl - [**2147-11-25**] 02:48 PM
   Pantoprazole (Protonix) - [**2147-11-26**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2147-11-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-11-26**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 92 (54 - 94) bpm
   BP: 91/51(64) {84/44(56) - 115/66(83)} mmHg
   RR: 36 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 18)mmHg
   Total In:
                                                                  2,950 mL
                                                                    905 mL
   PO:
   TF:
   IVF:
                                                                  2,950 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    860 mL
   Urine:
                                                                  2,050 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    900 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 429 (380 - 541) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.45/30/114/20/-1
   Ve: 11.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No audible murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), mod-good air movement
   but tachypneic and using (mild)accessory muscles.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Skin:  Warm, No(t) Rash: , no skin lesions
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed,
   conversant, appropriate
   Labs / Radiology
   7.6 g/dL
   283 K/uL
   131 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   17 mg/dL
   107 mEq/L
   134 mEq/L
   22.7 %
   6.3 K/uL
        [image002.jpg]
                             [**2147-11-25**]  02:50 AM
                             [**2147-11-25**]  03:05 AM
                             [**2147-11-25**]  06:00 AM
                             [**2147-11-25**]  10:42 AM
                             [**2147-11-25**]  12:00 PM
                             [**2147-11-25**]  06:00 PM
                             [**2147-11-25**]  11:53 PM
                             [**2147-11-26**]  01:00 AM
                             [**2147-11-26**]  04:10 AM
                             [**2147-11-26**]  04:54 AM
   WBC
   1.8
   6.3
   Hct
   26.4
   22.7
   Plt
   298
   283
   Cr
   0.6
   0.7
   TCO2
   19
   19
   19
   21
   Glucose
   238
   285
   180
   155
   200
   131
   Other labs: PT / PTT / INR:12.7/28.3/1.1, ALT / AST:69/30, Alk Phos / T
   Bili:67/0.2, Differential-Neuts:89.6 %, Lymph:8.1 %, Mono:2.0 %,
   Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:292 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   41yo M with recently diagnosed HIV/AIDS (CD4 26) and PCP
   [**Name Initial (PRE) 967**]. Treating for HAP, PCP [**Name Initial (PRE) **]. Likely PCP pna with [**Name9 (PRE) 10349**] immune
   response.
   Treating with vanc/cefepime/levofloxacin/tamiflu/bactrim
   On solumedrol since [**11-24**].
   Resp failure.
   Extubate now.
   Hypotension
   Making urine 200cc/h. Will hold off on volume now. If MAP remains <55
   will transfuse PRBC for volume, anemia, oxygen delivery.
   PJP
   Continue Bactrim, change solumedrol to prednisone 40 [**Hospital1 **] x 3d, then
   40qd.
   Severe PNA, empirically treated for HAP.
   Highly doubt bacterial pna. Will d/c vanc/cefipime/levo.
   Influenza, also doubt. Will continue osaltamivir until culture result.
   AIDS
   Holding HAART.
   Appreciate ID input.
   Prophylaxis started.
   NAG metabolic acidosis, attributable to large volume NS resuscitation.
   Improving.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2147-11-24**] 04:35 PM
   18 Gauge - [**2147-11-24**] 04:36 PM
   16 Gauge - [**2147-11-24**] 04:36 PM
   Arterial Line - [**2147-11-24**] 11:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-11-27 07:08:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] resident progress note
   Chief Complaint:
   24 Hour Events:
   -changed to prednisone 40 [**Hospital1 **] from solumedrol.  Plan for 40 po BID x 3
   days, then 40 daily x 5 days
   -extubated in AM, post extub abg: 7.46/30/169/22
   -advanced to clears
   -BAL from [**11-25**] positive for PCP.  [**Name10 (NameIs) **] and CMV pending.  Legionella
   urine ag pend.  Vanc, cefepime and levo stopped
   -influenza DFA neg; tamiflu and droplet precautions stopped
   -transfused 1 U PRBCs for hypotension and low hct
   -plan to narrow abx tomorrow if Cx still neg
   - Putting out 300ccs of urine/hr, bolus 1L NS for MAP 55
   - Increased O2 requirement to 5L
 INVASIVE VENTILATION - STOP [**2147-11-26**] 08:57 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2147-11-26**] 04:00 AM
   Levofloxacin - [**2147-11-26**] 12:00 PM
   Cefipime - [**2147-11-26**] 07:57 PM
   Vancomycin - [**2147-11-26**] 08:17 PM
   Bactrim (SMX/TMP) - [**2147-11-26**] 10:03 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-11-26**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2147-11-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-27**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 55 (55 - 92) bpm
   BP: 101/47(63) {59/39(51) - 102/67(73)} mmHg
   RR: 26 (22 - 43) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,279 mL
                                                                     87 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,891 mL
                                                                     87 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                  3,875 mL
                                                                    800 mL
   Urine:
                                                                  3,875 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                   -713 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 93%
   ABG: 7.48/31/89.[**Numeric Identifier 299**]/23/0 at 3am
   PaO2 / FiO2: 223
   Physical Examination
   GEN: Intubated, but awake and responsive.  Answering questions
   appropriately and writing on paper to communicate
   HEENT: PERRL, scleral edema, intubated with OGT in place, dried blood
   at nare on left
   NECK: no [**Doctor First Name **]
   PULM: Coarse breath sounds throughout, otherwise clear to ausc
   bilaterally
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   SKIN: no appreciable rashes
   Labs / Radiology
   311 K/uL
   8.8 g/dL
   149 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   137 mEq/L
   26.8 %
   4.0 K/uL
        [image002.jpg]
                             [**2147-11-25**]  10:42 AM
                             [**2147-11-25**]  12:00 PM
                             [**2147-11-25**]  06:00 PM
                             [**2147-11-25**]  11:53 PM
                             [**2147-11-26**]  01:00 AM
                             [**2147-11-26**]  04:10 AM
                             [**2147-11-26**]  04:54 AM
                             [**2147-11-26**]  10:37 AM
                             [**2147-11-27**]  02:26 AM
                             [**2147-11-27**]  02:48 AM
   WBC
   6.3
   4.0
   Hct
   22.7
   26.8
   Plt
   283
   311
   Cr
   0.7
   0.7
   TCO2
   19
   19
   21
   22
   24
   Glucose
   180
   155
   200
   131
   149
   Other labs: PT / PTT / INR:12.7/28.3/1.1, ALT / AST:53/21, Alk Phos / T
   Bili:62/0.2, Differential-Neuts:85.9 %, Lymph:10.4 %, Mono:3.5 %,
   Eos:0.2 %, Lactic Acid:2.1 mmol/L, Albumin:2.2 g/dL, LDH:274 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   LDH 274 (from 292)
[**2147-11-26**] 4:04 am Influenza A/B by DFA
      Source: Nasopharyngeal swab.
                            **FINAL REPORT [**2147-11-26**]**
   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2147-11-26**]):
      Negative for Influenza A.
   DIRECT INFLUENZA B ANTIGEN TEST (Final [**2147-11-26**]):
      Negative for Influenza B.
[**2147-11-25**] 2:30 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2147-11-25**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2147-11-26**]):
      REPORTED BY PHONE TO J. [**Doctor Last Name 10384**] [**2147-11-26**] 3PM.
      POSITIVE FOR PNEUMOCYSTIS JIROVECII (CARINII).
   ACID FAST SMEAR (Preliminary):
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
      This is only a PRELIMINARY result.  If ruling out tuberculosis, you
      must wait for confirmation by concentrated smear.
   ACID FAST CULTURE (Preliminary):
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
[**2147-11-25**] 2:30 pm Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2147-11-25**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
   [**11-25**] Cryptococcal Ag pending
   [**11-25**] CMV VL pending
   [**11-25**] Urinary legionella antigen pending
   [**11-24**] blood cx pending
   Assessment and Plan
   41 yo M with newly diagnosed HIV/AIDS ([**2147-10-31**]) and s/p prolonged
   hospitalization (ending [**2147-11-16**]) for PCP pneumonia, who presented
   with dyspnea. was found to be hypoxic in ED and was subsequently
   intubated and successfully extubated.
   #. Hypoxemic respiratory failure: Felt to most likely be worsening of
   his PCP pneumonia, especially considering positive BAL results.  Could
   also consider influenza but this was negative.
   - FU final BAL results
   - Continue empiric tx of community acquired pneumonia with levofloxacin
   and empiric tx of hospital acquired pneumonia with vancomycin and
   cefepime until BAL culture results  negative x 48 hours
 will happen
   today at 2pm
   - Treat known PCP pneumonia with Bactrim IV and steroids (will readjust
   steroid dose to 40mg po bid x 5 days total (will change dose on [**11-27**]),
   then 40mg po daily x 5 days, then 20mg daily x 11 days).
   - have stopped Tamiflu
   - FU CMV VL and [**Month/Day (4) **] antigen, urine legionella
   - can trend LDH
   - appreciate ID recs
- started azithromycin 1200mg po qweek as MAC prophylaxis given CD4<50
   #. Hypotension:  Patient not hypotensive at presentation, though
   developed a minimal vasopressor requirement prior to being transferred
   out of the ED. No known cardiac history. Possible component of
   hypovolemic shock, though must likely to be septic shock in setting of
   fever, CXR appearance, hypoxic respiratory failure. Received 9 L of IVF
   in the ED and blood pressures have been stable.
   - Goal MAP 60 but will hold off on fluids at this time as going to
   extubate
   - Check CVP to assess volume
   - Continue fluid boluses as needed
   - Follow-up blood cultures
   #. HIV/AIDS: Last measured CD4 was 26 on [**2147-11-4**] at time of
   diagnosis.
   - Will hold off on HAART at this time per ID
   - Appreciate ID recs
   - Could consider IRS as possible contributor to current presentation
   #  Non anion gap metabolic acidosis: Likely due to IVF in ED, bicarb
   improving today but still low
   - Continue to monitor daily
   # Anemia: Dropped Hct in last 24 hours.
   - Consider blood transfusion if feel that he needs volume resuscitation
   - Maintain active type and screen
   ICU Care
   Nutrition: Full liquids, advance to clears today
   Glycemic Control:  Insulin sliding scale
   Lines: Multi Lumen - [**2147-11-24**] 04:35 PM
   18 Gauge - [**2147-11-24**] 04:36 PM
   16 Gauge - [**2147-11-24**] 04:36 PM
   Arterial Line - [**2147-11-24**] 11:34 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Brother [**Name (NI) 10371**] ([**Telephone/Fax (1) 10372**]
   Code status: Full code
   Disposition: ICU for now

2147-11-28 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs: Continue Bactrim (switch to PO when out of unit) and
   prednisone as we are doing, "note that unclear if PCP DFA is definitely
   a way to explain his "new" decompensation vs old organisms from prior
   episode; clinically PCP fits grew data, continue azithro ppx, restarted
   HAART (those this was not the initial plan)
   - hypotensive to SBPs 70s, was asymptomatic and resolved on own
   - sent work excuse letter to his job
   - did not d/c CVL yet given episodes of hypotension
   This AM pt reports his breathing is slightly improved, although
   continues to get SOB when moving at all.  Denies any pain, f/c, n/v.
   Tolerating regular diet.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2147-11-26**] 04:00 AM
   Levofloxacin - [**2147-11-26**] 12:00 PM
   Cefipime - [**2147-11-26**] 07:57 PM
   Vancomycin - [**2147-11-26**] 08:17 PM
   Bactrim (SMX/TMP) - [**2147-11-28**] 05:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-11-27**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2147-11-27**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 54 (54 - 90) bpm
   BP: 85/57(70) {69/46(58) - 123/72(88)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 97% on 3 L NC
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,547 mL
                                                                    572 mL
   PO:
                                                                  1,280 mL
             TF:
   IVF:
                                                                  1,267 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    480 mL
   Urine:
                                                                  2,660 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -113 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: A&Ox3, lying comfortably in bed, NAD
   HEENT: NCAT, OP clear, MMM
   CV: RRR, nl S1, S2, no murmurs appreciated
   Pulm: CTAB
   Abd: soft, NT, ND, +BS
   Extrem: no c/c/e, 2+ pulses throughout
   Labs / Radiology
   291 K/uL
   9.6 g/dL
   143 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   16 mg/dL
   107 mEq/L
   136 mEq/L
   28.5 %
   4.0 K/uL
         [image002.jpg]
                             [**2147-11-25**]  12:00 PM
                             [**2147-11-25**]  06:00 PM
                             [**2147-11-25**]  11:53 PM
                             [**2147-11-26**]  01:00 AM
                             [**2147-11-26**]  04:10 AM
                             [**2147-11-26**]  04:54 AM
                             [**2147-11-26**]  10:37 AM
                             [**2147-11-27**]  02:26 AM
                             [**2147-11-27**]  02:48 AM
                             [**2147-11-28**]  03:56 AM
   WBC
   6.3
   4.0
   4.0
   Hct
   22.7
   26.8
   28.5
   Plt
   [**Telephone/Fax (3) 10402**]
   Cr
   0.7
   0.7
   0.7
   TCO2
   19
   21
   22
   24
   Glucose
   180
   155
   200
   131
   149
   143
   Other labs: PT / PTT / INR:12.7/28.3/1.1, ALT / AST:77/41, Alk Phos / T
   Bili:84/0.2, Differential-Neuts:85.9 %, Lymph:10.4 %, Mono:3.5 %,
   Eos:0.2 %, Lactic Acid:2.1 mmol/L, Albumin:2.2 g/dL, LDH:292 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   [**11-25**] BAL pos for PCP, [**Name10 (NameIs) **] pending
   [**11-25**] RRV and Cx neg
   [**11-25**] crypto ag neg
   [**11-25**] CMV VL pending
   [**11-25**] urine legionella Ag neg
   [**11-26**] Influenza DFA neg
   No new imaging
   Assessment and Plan
   41 yo M with newly diagnosed HIV/AIDS ([**2147-10-31**]) and s/p prolonged
   hospitalization (ending [**2147-11-16**]) for PCP pneumonia, who presented
   with dyspnea.  Was found to be hypoxic in ED and was subsequently
   intubated and successfully extubated.
   .
   #. Hypoxemic respiratory failure: Felt to most likely be worsening of
   his PCP pneumonia, especially considering positive BAL results.  Could
   also consider influenza but this was negative.
   - FU final BAL results
   - Treat known PCP pneumonia with Bactrim IV and steroids (will readjust
   steroid dose to 40mg po bid x 5 days total (will change dose on [**11-29**]),
   then 40mg po daily x 5 days, then 20mg daily x 11 days).
   - Have stopped other antibiotics and Tamiflu
   - FU CMV VL
   - can trend LDH
   - appreciate ID recs
   .
   #. Hypotension:  Patient not hypotensive at presentation, though
   developed a minimal vasopressor requirement prior to being transferred
   out of the ED. No known cardiac history. Possible component of
   hypovolemic shock, though must likely to be septic shock in setting of
   fever, CXR appearance, hypoxic respiratory failure. Received 9 L of IVF
   in the ED and blood pressures have been stable but low.  Patient has no
   signs of hypoperfusion currently and is asymptomatic so would not treat
   currently.
   - Goal MAP 60 but will hold off on fluids at this time as clinically he
   is doing well
   .
   #. HIV/AIDS: Last measured CD4 was 26 on [**2147-11-4**] at time of
   diagnosis.  Could consider IRS as possible contributor to current
   presentation
   - HAART restarted [**11-27**]
   - Appreciate ID recs
   - started azithromycin 1200mg po qweek as MAC prophylaxis given CD4<50
   .
   # Transaminitis: Trending slightly up today; possibly related to
   restarting HAART.
   -continue to monitor
   .
   # Anemia: Hct now stable
   - Consider blood transfusion if feel that he needs volume resuscitation
   - Maintain active type and screen
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2147-11-24**] 04:35 PM
   18 Gauge - [**2147-11-24**] 04:36 PM
   16 Gauge - [**2147-11-24**] 04:36 PM
   Arterial Line - [**2147-11-24**] 11:34 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Call out to floor likely later today

2147-11-28 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   SOB only with exertion
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2147-11-26**] 04:00 AM
   Levofloxacin - [**2147-11-26**] 12:00 PM
   Cefipime - [**2147-11-26**] 07:57 PM
   Vancomycin - [**2147-11-26**] 08:17 PM
   Bactrim (SMX/TMP) - [**2147-11-28**] 05:16 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-11-28**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 63 (54 - 86) bpm
   BP: 102/58(75) {69/46(58) - 123/72(88)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,547 mL
                                                                    811 mL
   PO:
                                                                  1,280 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,267 mL
                                                                    611 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,080 mL
   Urine:
                                                                  2,660 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -113 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   291 K/uL
   143 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   16 mg/dL
   107 mEq/L
   136 mEq/L
   28.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2147-11-25**]  12:00 PM
                             [**2147-11-25**]  06:00 PM
                             [**2147-11-25**]  11:53 PM
                             [**2147-11-26**]  01:00 AM
                             [**2147-11-26**]  04:10 AM
                             [**2147-11-26**]  04:54 AM
                             [**2147-11-26**]  10:37 AM
                             [**2147-11-27**]  02:26 AM
                             [**2147-11-27**]  02:48 AM
                             [**2147-11-28**]  03:56 AM
   WBC
   6.3
   4.0
   4.0
   Hct
   22.7
   26.8
   28.5
   Plt
   [**Telephone/Fax (3) 10402**]
   Cr
   0.7
   0.7
   0.7
   TCO2
   19
   21
   22
   24
   Glucose
   180
   155
   200
   131
   149
   143
   Other labs: PT / PTT / INR:12.7/28.3/1.1, ALT / AST:77/41, Alk Phos / T
   Bili:84/0.2, Differential-Neuts:85.9 %, Lymph:10.4 %, Mono:3.5 %,
   Eos:0.2 %, Lactic Acid:2.1 mmol/L, Albumin:2.2 g/dL, LDH:292 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name 76**])
 .H/O PNEUMONIA, PNEUMOCYSTIS JIROVECI (PCP, [**Name10 (NameIs) **] [**Name11 (NameIs) **]
   PNEUMONIA)
   He is continuing to improve.  SOB now only with exertion. BP low but
   w/o signs of hypoperfusion.  Will remain on HAART, 21 d Bactrim and
   steroid taper.  Would not evaluate his low BP further as he is
   assymptomatic
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:
   Lines:
   Multi Lumen - [**2147-11-24**] 04:35 PM
   18 Gauge - [**2147-11-24**] 04:36 PM
   16 Gauge - [**2147-11-24**] 04:36 PM
   Arterial Line - [**2147-11-24**] 11:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes